US08138333B2
tert-Butyl 7-(acetyloxy)-6-methyl-1,3,4,6-tetrahydro-5H-azepino[5,4,3-cd]indole-5-carboxylate
To a solution of 6-methyl-3,4,5,6-tetrahydro-1H-azepino[5,4,3-cd]indol-7-ol, Intermediate 13 (340 mg, 1.7 mmol) in MeOH (10 mL) was added (BOC)2O (513 mg, 2.4 mmol) and the reaction mixture was stirred at room temperature for 30 minutes (95% conversion). Pyridine (0.5 mL) was added and the mixture was left at room temperature over night. The solvent was evaporated at reduced pressure and the resulting residue was dissolved in pyridine (4 mL), cooled on an ice bath, Ac2O (1 mL) was added and the stirred mixture was allowed to slowly reach room temperature over night. The mixture was concentrated under reduced pressure and the residue was co-evaporated twice with toluene. The dark brown oil (0.9 g) was chromatographed on a column of silica, initially with 100% CHCl3 followed by CHCl3/MeOH 99.5/0.5. Evaporation of pure pooled fractions yielded 241 mg of the title compound as a light yellow oil. MS m/z 289 [M+H-isobutene]+.

reactant | 6-methyl-3,4,5,6-tetrahydro-1H-azepino[5,4,3-cd]indol-7-ol | CC1NCCC2=CNC3=CC=C(C1=C23)O | C12H14N2O
reactant | (BOC)2O | 2.4 mmol, 513 mg | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
reactant | Pyridine | 0.5 mL | N1=CC=CC=C1 | C5H5N
reactant | MeOH | 10 mL | CO | CH4O
product | tert-Butyl 7-(acetyloxy)-6-methyl-1,3,4,6-tetrahydro-5H-azepino[5,4,3-cd]indole-5-carboxylate | 241 mg | C(C)(=O)OC1=C2C=3C(=CNC3C=C1)CCN(C2C)C(=O)OC(C)(C)C | C19H24N2O4
